Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"I have been not doing well."
 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
___ F with history of depression and anxiety who was sent in by
school counseling services for worsening depression and SI.

Patient states she has been struggling with classes at ___
___ year) and it has worsened her depression. Her depression is
experienced as poor sleep, decreased appetite with some weight
loss, poor concentration, poor motivation and decreased
interests. She says that the fact she is depressed, she is
sleeping through classes and having difficulty finishing her
assignments, which is then worsening her depression more. She is
now having SI but without plan. They have becoming more intense
over past few weeks and is having more difficulty avoiding them.
She denies any attempt to act on them and denies any self
injurious behaviors. She has noticed the vicious cycle of
depression->worsening grades->worsening depression. She states "
I see no future for myself. I have nothing to look forward to."
She has felt like this previously, at age ___. She describes this
as "rock bottom." She is very concerned about wasting money on
college if she will just fail out, and seems very hard on
herself. She denies any romantic distress, no fights with
friends, no traumatic experience. She has been seeing the school
counseling services and been taking her medications regularly 
but
has continued to worsen.  

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Diagnoses: MDD, ADHD, and anxiety
Hospitalizations: denies, has done partial program at ___
before at ___
Current treaters and treatment: School counseling and ___ NP in ___
Medication trials: zoloft, vyvance, lamictal, hydroxyzine
Self-injury: hx of cutting, denies current SIB, denies hx of SA
Harm to others: denies

PAST MEDICAL HISTORY:
Denies
 
Social History:
ALLERGIES: NKDA

SUBSTANCE ABUSE HISTORY:
alcohol: social
Tob: denies
Illicts: denies

FORENSIC HISTORY:
Arrests: Denies
Convictions and jail terms: Denies
Current status (pending charges, probation, parole)denies

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Mom ___ and ___
Father ___ and ___, Attempted Suicide
Cousins on fathers: multiple have attempted SA and some have
completed SA
 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T:98.6 P:104   BP: 116/64  RR: 16   SaO2: 99% (RA)
* General: Well-nourished, well-developed, in no apparent
distress. Appears stated age. Good hygiene, dressed in hospital
gown.
* HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
* Neck: Supple, trachea midline. No adenopathy or thyromegaly.
* Back: No significant deformity, no focal tenderness.
* Lungs: Clear to auscultation; no crackles or wheezes.
* CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal
pulses.
* Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
* Extremities: No clubbing, cyanosis, or edema.
* Skin: Warm and dry, no rashes, scars, or lesions.

Neurological:
  *Cranial Nerves-
       I: Not tested.
       II: Pupils equally round and reactive to light
bilaterally. Visual fields are full to confrontation.
      III, IV, VI: Extraocular movements intact bilaterally
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal
movements, no tremors. Strength full power ___ throughout. No
gross focal motor or sensory deficits, normal gait.
  *Coordination- 
Normal on finger-nose-finger, rapid alternating movements, heel
to shin.
  *Deep tendon reflexes- 2+ and symmetrical, toes downgoing.
  *Sensation- intact to light touch, position sense intact.
  *Gait- steady, no truncal ataxia, normal stance and posture.
  *Romberg- negative.

NEUROPSYCHIATRIC EXAMINATION:
* Appearance: no apparent distress, appears stated age, good
hygiene, appropriately dressed
* Behavior: calm, cooperative, engaged, friendly, pleasant, poor
eye contact, orients to interviewer, no abnormal posturing, no
psychomotor agitation or retardation
* Orientation: oriented to ___ as well as person, 
place,
and situation
* Mood: "horrible"
* Affect: mildly dysthymic, constricted, normal intensity,
appropriate to situation, congruent with mood
* Thought Process: linear, coherent, goal-oriented, no loose
associations
* Thought Content: +SI without plan, denies HI/AH/VH, delusions
and paranoia absent, does not appear to be responding to 
internal
stimuli
* Impulse Control: poor
* Judgment: poor
* Insight: poor
* Speech: fluent, normal rate, tone, volume, and prosody, no
paraphasic errors

COGNITION:
Per Dr. ___ on ___
Wakefulness/alertness: awake and alert
 *Attention (digit span, MOYB): MOYB without error
 *Orientation: ___ ___
 Executive function (go-no go, Luria, trails, FAS):
 *Memory:   ___ immediate and ___ spontaneous after 5 min
 *Fund of knowledge:  knows current and ___ president of ___
 Calculations:  $1.75 as 7 quarters
 Abstraction:  bike/train as "having wheels "
 *Speech: normal rate, normal tone, normal prosody
 *Language: fluent ___

 
Pertinent Results:
___ 11:00PM   GLUCOSE-128* UREA N-14 CREAT-0.7 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-102 TOTAL CO2-26 ANION GAP-15
___ 11:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:00PM   WBC-7.3 RBC-4.01 HGB-12.3 HCT-38.0 MCV-95 
MCH-30.7 MCHC-32.4 RDW-13.2 RDWSD-45.6
___ 11:00PM   NEUTS-51.5 ___ MONOS-5.2 EOS-0.7* 
BASOS-0.7 IM ___ AbsNeut-3.75 AbsLymp-3.03 AbsMono-0.38 
AbsEos-0.05 AbsBaso-0.05
___ 11:00PM   PLT COUNT-242
 
Brief Hospital Course:
Patient is a ___ woman with a past history of depression 
and currently is a freshman student at ___. School of Art 
admitted for worsening depression and suicidal ideation in the 
context of beginning her freshman year of college. In her first 
rounds meeting she endorsed neurovegetative signs signs of 
depression, especially insomnia. She has difficulty with sleep, 
sleeps in class, does not attend class and is falling behind in 
her coursework. Patient denies any clear precipitants besides 
adjusting to the work demands of school. Mother stated that 
patient has not been this depressed since age ___ when she was 
referred to a partial hospital program while suffering from 
depression.

The next day a meeting was held with patient and father. 
Discussion centered around
patient's hospitalization, her history of depression. Family 
frustrated with school, as they were looking for more support to 
be provided for patient before she started. Patient has decided 
that she will taking a medical leave and consider returning next 
semester. Father is very supportive of this decision, and 
patient
requested that her follow-up care be in the ___ area for when 
she returns to school. She openly denies any suicidal thoughts 
or feelings; her affect is bright and she is future-oriented.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LaMOTrigine 150 mg PO QHS 
2. Vyvanse (lisdexamfetamine) 40 mg oral qAM 
3. Sertraline 50 mg PO DAILY 
4. HydrOXYzine 25 mg PO QHS 

 
Discharge Medications:
1. HydrOXYzine 50 mg PO QHS 
RX *hydroxyzine HCl 50 mg 1 tablet by mouth at bedtime Disp #*30 
Tablet Refills:*0
2. LaMOTrigine 150 mg PO QHS 
RX *lamotrigine 150 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
3. Duloxetine 60 mg PO QAM 
Please ask your doctor about increasing this to 90 mg every 
morning. 
RX *duloxetine 60 mg 1 capsule(s) by mouth qam Disp #*30 Capsule 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
major depression

 
Discharge Condition:
Pt denies all suicidal thoughts or feelings.
Affect bright, thoughts organized and goal-directed.

 
Discharge Instructions:
Please take all medications and keep all appointments.

In case of emergency, please call ___ immediately or go to your 
nearest emergency room.
 
Followup Instructions:
___